US08212041B2
7-methoxy-4-((6-(1-methyl-1H-1,2,3-triazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinoline
To a mixture of 4-((6-ethynyl-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline (0.200 g, 0.605 mmol), trimethylsilylmethyl azide (0.156 g, 1.21 mmol), sodium ascorbate (0.240 g, 1.21 mmol) in THF (4 mL) and water (1 mL) was added 1 drop of a copper sulfate (0.00966 g, 0.0605 mmol) solution. Stirred for 1 h. Concentrated. Suspended in water and extracted with CH2Cl2 (3×5 mL). Dried over sodium sulfate and concentrated. Took up crude mixture in DMF (4 mL). Added cesium fluoride (0.368 g, 2.42 mmol) and heated to 60° for 1 h. Concentrated. Purified on RPHPLC. Fractions containing product were treated with 9% sodium carbonate and volatiles were removed in vacuo. Product crashed out of solution and was isolated by filtration. MS m/z=388.1 [M+1]+. Calc'd for C20H17N7O2: 387.4.

reactant | 4-((6-ethynyl-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline | 0.605 mmol, 0.200 g | C(#C)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C19H14N4O2
reactant | trimethylsilylmethyl azide | 1.21 mmol, 0.156 g | C[Si](C)(C)CN=[N+]=[N-] | C4H11N3Si
reactant | sodium ascorbate | 1.21 mmol, 0.240 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | cesium fluoride | 2.42 mmol, 0.368 g | [F-].[Cs+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
catalyst | copper sulfate | 0.0605 mmol, 1 drop, 0.00966 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 7-methoxy-4-((6-(1-methyl-1H-1,2,3-triazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinoline | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C=2N=NN(C2)C | C20H17N7O2
